US08084614B2
Step 34G: 4-{5-Chloro-4-(4-cyano-6-trifluoromethyl-pyridin-3-yl)-2-[(2-methoxy-phenyl)-methyl-carbamoyl]-phenoxy}-butyric acid
A mixture of 2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-5-(4-cyano-6-trifluoromethyl-pyridin-3-yl)-benzoic acid (30 mg, 0.06 mmol), 2-methoxy-N-methylaniline (9.4 mg, 0.07 mmol), triethylamine (12.5 mg, 0.12 mmol) and 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU, 35 mg, 0.09 mL) in dichloromethane (1 mL) containing DMF (0.1 mL) was stirred at rt for 16 hrs. The mixture was then partitioned in water and dichloromethane. The organic layer was washed with water, dried and concentrated to yield a crude 4-{5-chloro-4-(4-cyano-6-trifluoromethyl-pyridin-3-yl)-2-[(2-methoxy-phenyl)-methyl-carbamoyl]-phenoxy}-butyric acid t-butyl ester.

reactant | 2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-5-(4-cyano-6-trifluoromethyl-pyridin-3-yl)-benzoic acid | 0.06 mmol, 30 mg | C(C)(C)(C)OC(=O)CCCOC1=C(C(=O)O)C=C(C(=C1)Cl)C=1C=NC(=CC1C#N)C(F)(F)F | C22H20ClF3N2O5
reactant | 2-methoxy-N-methylaniline | 0.07 mmol, 9.4 mg | COC1=C(NC)C=CC=C1 | C8H11NO
reactant | triethylamine | 0.12 mmol, 12.5 mg | C(C)N(CC)CC | C6H15N
reactant | 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.09 mL, 35 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 4-{5-Chloro-4-(4-cyano-6-trifluoromethyl-pyridin-3-yl)-2-[(2-methoxy-phenyl)-methyl-carbamoyl]-phenoxy}-butyric acid | ClC=1C(=CC(=C(OCCCC(=O)O)C1)C(N(C)C1=C(C=CC=C1)OC)=O)C=1C=NC(=CC1C#N)C(F)(F)F | C26H21ClF3N3O5
